US04556655
Titrate a solution of diazomethane in ether into a solution of 1-amino-1-(S)-carboxy-5-(t-butoxycarbonyl amino)-3-pentyne (4 g) in ethanol (200 ml) until a yellow color remains. Evaporate the solvent to obtain 1-amino-1-(s)-methoxycarbonyl-5-(t-butoxycarbonylamino)-3-pentyne.

reactant | diazomethane | [N+](=[N-])=C | CH2N2
reactant | 1-amino-1-(S)-carboxy-5-(t-butoxycarbonyl amino)-3-pentyne | 4 g | N[C@@H](CC#CCNC(=O)OC(C)(C)C)C(=O)O | C11H18N2O4
solvent | ether | CCOCC | C4H10O
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 1-amino-1-(s)-methoxycarbonyl-5-(t-butoxycarbonylamino)-3-pentyne | N[C@@H](CC#CCNC(=O)OC(C)(C)C)C(=O)OC | C12H20N2O4
